US05798375
1(c) Methyl 4-(2-bromo-2-butoxycarbonylethyl-1-yl)-phenoxyacetate
98 g of 47% w/W aqueous hydrobromic acid, followed by 33 ml of an aqueous solution containing 12.8 g of sodium nitrite, were added to a solution of 25.8 g of methyl 4-aminophenoxyacetate (prepared as described in step (b) above] in 263 ml of a 2:5 by volume mixture of methanol and acetone, whilst ice-cooling, and the resulting mixture was stirred, whilst ice-cooling, for 30 minutes. 18.2 g of butyl acrylate were then added, and the reaction mixture was stirred for a further 30 minutes, whilst ice-cooling. 3.2 g of copper(I) bromide were then added to the mixture, and the mixture was stirred overnight at room temperature. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the residue was mixed with an aqueous solution of sodium chloride. It was then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. On distilling off the solvent, there were obtained 51.7 g of the title compound having an Rf value=0.46 (on thin layer chromatography on silica gel; developing solvent: a 5:1 by volume mixture of hexane and ethyl acetate) as a crude product.

reactant | hydrobromic acid | Br | BrH
reactant | sodium nitrite | 12.8 g | N(=O)[O-].[Na+]
reactant | methyl 4-aminophenoxyacetate | 25.8 g | NC1=CC=C(OCC(=O)OC)C=C1 | C9H11NO3
reactant | butyl acrylate | 18.2 g | C(C=C)(=O)OCCCC | C7H12O2
catalyst | copper(I) bromide | 3.2 g | [Cu]Br
solvent | acetone | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
product | Methyl 4-(2-bromo-2-butoxycarbonylethyl-1-yl)-phenoxyacetate | 51.7 g | BrC(C=C1CC=C(OCC(=O)OC)C=C1)C(=O)OCCCC | C16H21BrO5
